US07495110B2
Stage 1: 1-(2-aminoethyl)-N,N-diisobutyl-2-[(3,4,5-trimethoxy phenyl)amino]-1H-benzimidazole-5-carboxamide hydrochloride
A stream of dry HCl is passed through a solution of tert-butyl 2-{5-[(diisobutylamino)carbonyl]-2-[(3,4,5-trimethoxy phenyl)amino]-1H-benzimidazol-1-yl}ethylcarbamate (2.56 g, prepared according to the procedure described in Example A1, reaction diagram A) in ethyl acetate (100 ml), (100% ethyl acetate) cooled down to 0° C. until the TLC shows complete disappearance of the starting product. The resulting mixture is then evaporated under reduced pressure. The solid obtained is triturated in diethylether and filtered in order to produce the expected compound in the form of white crystals (2.25 g, 97% yield).

reactant | HCl | Cl | ClH
reactant | tert-butyl 2-{5-[(diisobutylamino)carbonyl]-2-[(3,4,5-trimethoxy phenyl)amino]-1H-benzimidazol-1-yl}ethylcarbamate | C(C(C)C)N(C(=O)C1=CC2=C(N(C(=N2)NC2=CC(=C(C(=C2)OC)OC)OC)CCNC(OC(C)(C)C)=O)C=C1)CC(C)C | C32H47N5O6
solvent | ethyl acetate | 100 ml | C(C)(=O)OCC | C4H8O2
product | 1-(2-aminoethyl)-N,N-diisobutyl-2-[(3,4,5-trimethoxy phenyl)amino]-1H-benzimidazole-5-carboxamide hydrochloride | Cl.NCCN1C(=NC2=C1C=CC(=C2)C(=O)N(CC(C)C)CC(C)C)NC2=CC(=C(C(=C2)OC)OC)OC | InChI=1S/C27H39N5O4.ClH/c1-17(2)15-31(16-18(3)4)26(33)19-8-9-22-21(12-19)30-27(32(22)11-10-28)29-20-13-23(34-5)25(36-7)24(14-20)35-6;/h8-9,12-14,17-18H,10-11,15-16,28H2,1-7H3,(H,29,30);1H
